US05712285
Step 1: 2-Phenylthiophene
To a solution of 2-iodothiophene (2.8 ml, 25 mmol) and palladium tetrakistriphenylphosphine (866 mg, 0.75 mmol) in toluene (50 ml) under a nitrogen atmosphere was added aqueous sodium carbonate (2M, 25 ml) followed by a solution of phenylboronic acid (3.7 mg, 30 mmol) in methanol (12.5 ml). The vigorously stirred mixture was heated at 80° C. for 6 hours and then cooled to room temperature. Aqueous sodium carbonate (2M, 125 ml), dichloromethane (250 ml) and 0.88 ammonia solution (12 ml) were added to the reaction. The two phases were separated, and the aqueous phase extracted with dichloromethane (50 ml). The combined organic phases were washed with brine (80 ml), dried (MgSO4) and evaporated in vacuo to an oil. Purification by chromatography on silica gel eluting with hexane gave the title compound as a colourless oil (1.35 g, 36%) which solidified on standing. δH (CDCl3) 7.06-7.09 (1H, m, ArH), 7.25-7.31 (3H, m, ArH), 7.35-7.39 (2H, m, ArH, 7.60-7.62 (2H, m, ArH).

reactant | 2-iodothiophene | 25 mmol, 2.8 ml | IC=1SC=CC1 | C4H3IS
reactant | sodium carbonate | 2M, 25 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenylboronic acid | 30 mmol, 3.7 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 125 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonia | 12 ml | N | H3N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 12.5 ml | CO | CH4O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-Phenylthiophene | 1.35 g, 36% | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
